US07829560B2
4,6′-Dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B154).
Compound is formed by reacting 2-chloro-6-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide with 4-methylpiperidine under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.28 (s, 1H), 8.22 (m, 1H), 7.85 (m, 1H), 7.57 (m, 2H), 7.34 (d, 1H), 7.18 (s, 1H), 7.04 (m, 2H), 4.41 (d, 2H), 4.31 (t, 2H), 3.60 (t, 4H), 2.90-2.78 (m, 7H), 2.56 (t, 4H), 1.67 (m, 4H), 1.13 (m, 1H), 0.95-0.86 (m, 3H). MS: 489.2 (M+1).

reactant | 2-chloro-6-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(N1)C | C23H24ClN3O3
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | 4,6′-Dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=CC(=NC(=C1)C)N1CCC(CC1)C | C29H36N4O3
